US07034023B2
To a 200 mL, 3-neck round bottom flask, equipped with an internal temperature controller, was added a solution of 4-bromo-3-methylanisole (2.77 g, 16.3 mmol) in 40 mL of THF under nitrogen. The solution was cooled to −68° C. with a dry ice/acetone bath. To this solution was slowly added t-BuLi (21.0 mL, 1.70 M in pentane, 35.8 mmol) followed by the addition of a solution of α-methyl-γ-butyrolactone (2.30 m L, 24.4 mmol) in THF (10.0 mL). The internal temperature was controlled <−55° C. After 1 h stirring at <−55° C., the reaction mixture was quenched with saturated NH4Cl solution and warmed to room temperature. Water and EtOAc were added and separated. The aqueous layer was extracted with EtOAc (2×). The combined organic solutions was dried (MgSO4) and filtered. The filtrate was concentrated in vacuo to dryness to give 3.85 g of 1-(4-methoxy-2-methylphenyl)-4-hydroxy-2-methylbutan-1-one as light yellow oil, which was combined with another batch of material and subjected to column chromatography to give 1.26 g (18%) of clear oil. This material was used for Swern oxidation. To a 100 mL, 3-neck round bottom flask, equipped with an internal temperature controller, was added DMSO (1.75 mL, 24.6 mmol) and CH2Cl2 (20 mL). The solution was cooled to −80° C. with a MeOH/liquid nitrogen bath. To this solution was added oxalyl chloride (1.10 mL, 12.3 mmol) slowly via syringe pump. The mixture was stirred at −80° C. for 15 min followed by the addition of a solution of the above 1-(2-methyl-4-methoxyphenyl)-4-hydroxy-2-methylbutan-1-one (1.23 g) in CH2Cl2 (3.0 mL) slowly via syringe pump. After stirring at <−70° C. for 1 h, to the mixture was added Et3N (7.70 mL, 55.0 mmol). The cooling bath was removed after 5 min and the mixture was stirred at room temperature for 1.5 h. The mixture was diluted with hexanes (120 mL) and washed with water. The aqueous layer was extracted with hexanes. The combined organic solutions was concentrated in vacuo to dryness and the residue was subjected to column chromatography (silica gel, 1/6 EtOAc/heptane) to give 0.326 g (27%) of light yellow oil as the title compound: compound: 1H NMR (400 MHz, CDCl3) δ 9.87 (s, 1H), 7.82 (d, J=8 Hz, 1H), 6.83 (d, J=3 Hz, 1H), 6.81 (s, 1H), 3.94–3.86 (m, 4H), 3.20–3.13 (m, 1H), 2.62–2.56 (m, 1H), 2.51 (s, 3H), 1.21 (d, J=7 Hz, 3H); MS m/z 221.1 (M++H).

reactant | 4-bromo-3-methylanisole | 16.3 mmol, 2.77 g | BrC1=C(C=C(C=C1)OC)C | C8H9BrO
reactant | t-BuLi | 35.8 mmol, 1.70 M, 21.0 mL | [Li]C(C)(C)C
reactant | α-methyl-γ-butyrolactone | 24.4 mmol | CC1C(=O)OCC1 | C5H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | 1-(4-methoxy-2-methylphenyl)-4-hydroxy-2-methylbutan-1-one | 3.85 g | COC1=CC(=C(C=C1)C(C(CCO)C)=O)C | C13H18O3
